US07652143B2
t-Butyl 2-(3-benzyl-5-(4-methoxybenzyl)-2-oxoimidazolidin-1-yl)-3-methylbutyrate (0.22 g; 0.48 mmol) was dissolved in CH2Cl2 (2 ml), and the reaction solution was cooled to 0° C. Then TFA (2 ml) was added. The reaction mixture was stirred at 0° C. for 3 h. It was then concentrated in a rotary evaporator, and the residue was taken up with water and extracted with CH2Cl2 (3×). The organic phase was dried over Na2SO4 and concentrated in a rotary evaporator. 2-(3-Benzyl-5-(4-methoxybenzyl)-2-oxoimidazolidin-1-yl)-3-methylbutyric acid (0.18 g; 0.45 mmol) was obtained as a yellow oil. MS: 397.20 (M+H); Rt: 1.52 min (method: gradient 0 min 96% H2O (0.05% TFA) 2.0 min 95% acetonitrile, 95% acetonitrile to 2.4 min, 4% acetonitrile 2.45 min; flow rate 1 ml/min; column 0.4 μL (YMC J'sphere ODS H80 20X2 1.4μ); 30° C.)

reactant | t-Butyl 2-(3-benzyl-5-(4-methoxybenzyl)-2-oxoimidazolidin-1-yl)-3-methylbutyrate | 0.48 mmol, 0.22 g | C(C1=CC=CC=C1)N1C(N(C(C1)CC1=CC=C(C=C1)OC)C(C(=O)OC(C)(C)C)C(C)C)=O | C27H36N2O4
reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-Benzyl-5-(4-methoxybenzyl)-2-oxoimidazolidin-1-yl)-3-methylbutyric acid | 0.45 mmol, 0.18 g | C(C1=CC=CC=C1)N1C(N(C(C1)CC1=CC=C(C=C1)OC)C(C(=O)O)C(C)C)=O | C23H28N2O4
